US08541448B2
To dimethyl 5-hydroxyisophthalate (4.0 g, 19.03 mmol, 1.00 equiv) in THF (10 mL) was added lithium hydroxide (20 mL, 2M in water) and the resulting solution was stirred overnight at 40° C. The mixture concentrated under vacuum to remove the organic solvents and then the pH of the solution was adjusted to ˜2 with 6N hydrochloric acid. The resulting solids were collected by filtration and dried in a vacuum oven to afford 2.0 g (58%) of 5-hydroxyisophthalic acid as a white solid.

reactant | dimethyl 5-hydroxyisophthalate | 19.03 mmol, 4.0 g, 1.00 equiv | OC=1C=C(C=C(C(=O)OC)C1)C(=O)OC | C10H10O5
reactant | lithium hydroxide | 2M, 20 mL | [OH-].[Li+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-hydroxyisophthalic acid | 2.0 g, 58% | OC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H6O5
